US09216972B2
To a solution of 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid (Intermediate I-3D, 300 mg, 1.167 mmol) in dichloromethane (4 mL) at 0° C. was added oxalyl chloride (0.204 mL, 2.333 mmol) and a few drops of N,N-dimethylformamide, and the mixture was stirred at the same temperature for 20 min. Next, the reaction mixture was stirred for 5 min at room temperature, and the solvent and excess oxalyl chloride were evaporated off. The residue was dissolved in anhydrous dichloromethane and evaporated to give an oily residue which became solid upon drying under vacuum. The solid material was dissolved in 5 mL of dichloromethane and 2-amino-6-methoxy-3,4-dihydronaphthalen-1(2H)-one hydrochloride (223 mg, 1.167 mmol, J. Heterocyclic Chem., 29:1245 (1992)), diisopropylethylamine (0.61 mL, 3.50 mmol), and 4-(dimethylamino)pyridine (7.13 mg, 0.058 mmol) were added. The reaction mixture was stirred at room temperature for 2 hrs. The reaction mixture was extracted with ethyl acetate, washed with 1N HCl, saturated sodium bicarbonate and brine. The ethyl acetate layer was dried over sodium sulfate and evaporated to give a dark green solid residue. The product was crystallized from ethyl acetate and hexane to give 317 mg of the desired N-(6-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)-3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxamide. The mother liquor was purified by Combiflash (40 g silica gel) eluting with 2:8 ethyl acetate-hexane to give additional 119 mg of the product (87% yield). 1H NMR (400 MHz, CDCl3) δ ppm 8.05 (1H, d, J=8.80 Hz), 7.82 (1H, br. s.), 7.61 (2H, d, J=6.82 Hz), 7.47-7.58 (3H, m), 6.89 (1H, dd, J=8.80, 2.42 Hz), 6.75 (1H, d, J=2.20 Hz), 4.77 (1H, ddd, J=13.31, 4.84, 4.73 Hz), 3.90 (3H, s), 3.23-3.36 (1H, m), 3.02-3.10 (1H, m), 2.94-3.02 (1H, m), 1.96-2.10 (1H, m).

reactant | 3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxylic acid | 1.167 mmol, 300 mg | C1(=CC=CC=C1)C1=NOC(=C1C(F)(F)F)C(=O)O | C11H6F3NO3
reactant | oxalyl chloride | 2.333 mmol, 0.204 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-amino-6-methoxy-3,4-dihydronaphthalen-1(2H)-one hydrochloride | 1.167 mmol, 223 mg | Cl.NC1C(C2=CC=C(C=C2CC1)OC)=O
reactant | diisopropylethylamine | 3.50 mmol, 0.61 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | a few drops | CN(C=O)C | C3H7NO
catalyst | 4-(dimethylamino)pyridine | 0.058 mmol, 7.13 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(6-methoxy-1-oxo-1,2,3,4-tetrahydronaphthalen-2-yl)-3-phenyl-4-(trifluoromethyl)isoxazole-5-carboxamide | 317 mg | COC=1C=C2CCC(C(C2=CC1)=O)NC(=O)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C22H17F3N2O4
